US07714126B2
With a procedure similar to example 1 above, 4-phenyl-thiazole-2-carboxylic acid (6-morpholin-4-yl-pyridin-3-yl)-amide was prepared from 4-phenyl-thiazole-2-carboxylic acid and 6-morpholin-4-yl-pyridin-3-ylamine. LCMS calcd for C19H18N4O2S (m/e) 366, obsd 367 (M+H).

reactant | 4-phenyl-thiazole-2-carboxylic acid | C1(=CC=CC=C1)C=1N=C(SC1)C(=O)O | C10H7NO2S
reactant | 6-morpholin-4-yl-pyridin-3-ylamine | N1(CCOCC1)C1=CC=C(C=N1)N | C9H13N3O
product | 4-phenyl-thiazole-2-carboxylic acid (6-morpholin-4-yl-pyridin-3-yl)-amide | N1(CCOCC1)C1=CC=C(C=N1)NC(=O)C=1SC=C(N1)C1=CC=CC=C1 | C19H18N4O2S
